US09212187B2
Synthesis of 6-(3-aminopropoxy)-1-methyl-1H-quinolin-2-one
Hydrazine hydrate (6.54 ml) was added to a ethanol solution (250 ml) of 2-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]isoindole-1,3-dione (16.28 g), and stirred while heating under reflux for 2 hours. The reaction mixture was concentrated under reduced pressure. A 1N-sodium hydroxide aqueous solution was added to the residue, and stirred for 30 minutes, and extraction with dichloromethane was performed. The organic layer was washed with water and a saturated sodium chloride aqueous solution, in this order. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound(8.04 g) as a colorless oil.

reactant | Hydrazine hydrate | 6.54 ml | O.NN
reactant | 2-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]isoindole-1,3-dione | 16.28 g | CN1C(C=CC2=CC(=CC=C12)OCCCN1C(C2=CC=CC=C2C1=O)=O)=O | C21H18N2O4
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 6-(3-aminopropoxy)-1-methyl-1H-quinolin-2-one | 8.04 g | NCCCOC=1C=C2C=CC(N(C2=CC1)C)=O | C13H16N2O2
